### PR TITLE
feat(ErdosProblems): 445

### LINKED ISSUE #733: Erdős Problem 445
### What is the conjecture
    
https://www.erdosproblems.com/445

  Is it true that, for any $c>1/2$, if $p$ is a sufficiently large prime then, for any $n\geq 0$, there exist $a,b\in(n,n+p^c)$ such that $ab\equiv 1\pmod{p}$?
  

Status: open

### Choose either option
- [ ] I plan on working on this conjecture
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

### PR DESCRIPTION
**Pull request by danielchin**
Closes #733 

Formalizes Erdos Problem 445: https://www.erdosproblems.com/445

Assisted by Gemini/Antigravity

### CODE REVIEW

File: FormalConjectures/ErdosProblems/445.lean [hunk 1]
```diff
@@ -0,0 +1,73 @@
...
+
+namespace Erdos445
+
+/--
+The property that there exist $a,b\in(n,n+p^c)$ such that $ab\equiv 1\pmod{p}$.
+-/
+def Erdos445Prop (c : ℝ) (p n : ℕ) : Prop :=
+  ∃ a b : ℕ,
+    (n : ℝ) < (a : ℝ) ∧ (a : ℝ) < (n : ℝ) + (p : ℝ) ^ c ∧
+    (n : ℝ) < (b : ℝ) ∧ (b : ℝ) < (n : ℝ) + (p : ℝ) ^ c ∧
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/445.lean]: I think it would be cleaner not to coerce these inequalities to the Reals (the ones that only involve natural numbers)

File: FormalConjectures/ErdosProblems/445.lean [hunk 2]
```diff
@@ -0,0 +1,73 @@
...
+- [MathOverflow](https://mathoverflow.net/questions/69509/small-residue-classes-with-small-reciprocal)
+-/
+
+open Filter
+
+namespace Erdos445
+
+/--
+The property that there exist $a,b\in(n,n+p^c)$ such that $ab\equiv 1\pmod{p}$.
+-/
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/445.lean:36]: Could you also mention the inequalities in the docstring?

**Review by Paul-Lez — COMMENTED** [review]
Nice work thanks!

File: FormalConjectures/ErdosProblems/445.lean (hunk 1 above)
Comment (danielchin) [reply FormalConjectures/ErdosProblems/445.lean]: Done

File: FormalConjectures/ErdosProblems/445.lean (hunk 2 above)
Comment (danielchin) [reply FormalConjectures/ErdosProblems/445.lean:36]: The inequalities just represent the range of $a,b\in(n,n+p^c)$. Unless you want me to be more explicit than that?

File: FormalConjectures/ErdosProblems/445.lean [hunk 3]
```diff
@@ -0,0 +1,73 @@
...
+def Erdos445Prop (c : ℝ) (p n : ℕ) : Prop :=
+  ∃ a b : ℕ,
+    n < a ∧ (a : ℝ) < (n : ℝ) + (p : ℝ) ^ c ∧
+    n < b ∧ (b : ℝ) < (n : ℝ) + (p : ℝ) ^ c ∧
+    a * b ≡ 1 [MOD p]
+
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/445.lean:42]:
```suggestion

/-- Small example: for $p=5$, $c=1$, $n=0$, the pair $(2,3) \in (0,5)$ satisfies
$2 \cdot 3 = 6 \equiv 1 \pmod{5}$. -/
@[category test, AMS 11]
theorem erdos_445.test.small_example : Erdos445Prop 1 5 0 := by
  refine ⟨2, 3, by omega, ?_, by omega, ?_, by native_decide⟩
  all_goals simp only [Nat.cast_zero, zero_add, Real.rpow_one]; norm_num

```

Would that make sense as a sanity check?

**Review by mo271 — APPROVED** [review]
Thanks, LGTM, just one more idea for some test statement

File: FormalConjectures/ErdosProblems/445.lean (hunk 3 above)
Comment (danielchin) [reply FormalConjectures/ErdosProblems/445.lean:42]: I made a slight edit to make it a bit more strict. Changed `n` to `1` so the trivial case isn't included and simplified the proof.

**Comment by mo271** [comment]
Thanks again!
